US05457225
In an atmosphere of argon, 1.43 g (5.4 mmol) of (S)-2-N-(3'-tert-butylsalicylidene)amino]-3-methyl-1-butanol, 5 ml of dichloromethane and 1.45 ml (4.9 mmol) of titanium tetraisopropoxide were placed in a schlenk tube, were stirred at room temperature over 1 hour and were cooled to -20° C. to prepare a dichloromethane solution. To the dichloromethane solution, 0.5 ml (4.9 mmol) of benzaldehyde and 0.75 ml (9.8 mmol) of diketene were added in this order, and were vigorously stirred at -20° C. over 48 hours to give a reaction mixture. After the reaction mixture was warmed to room temperature, 0.75 ml (4.9 mmol) of isopropyl alcohol was added to the reaction mixture and was vigorously stirred at room temperature over 1 hour to give a reaction mixture. The reaction mixture was added to a mixed solution of 50 ml of 1N HCl and 50 ml of diethyl ether, and vigorously stirred at room temperature over 24 hours to give a solution. The solution was extracted with three portions of 50 ml of diethyl ether. The diethyl ether portions were combined, washed twice with 50 ml of a saturated sodium hydrogencarbonate aqueous solution, and further washed twice with 50 ml of a saturated sodium chloride aqueous solution to obtain a washed solution. To the solution, anhydrous magnesium sulfate was added to dry. The solvent of the solution was removed by distillation in vacuo to obtain a concentrated solution. The concentrated solution was placed on a silica gel column and eluted with a mixture of benzene and diethyl ether (benzene:diethyl ether=3:1) to give 1.04 g of optically active isopropyl 5-hydroxy-3-oxo-5-phenylpentanoate (yield: 85%; optical purity: 84% ee).

reactant | benzaldehyde | 4.9 mmol, 0.5 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | diketene | 9.8 mmol, 0.75 ml | C=C1CC(=O)O1 | C4H4O2
reactant | isopropyl alcohol | 4.9 mmol, 0.75 ml | C(C)(C)O | C3H8O
reactant | HCl | 1N, 50 ml | Cl | ClH
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | titanium tetraisopropoxide | 4.9 mmol, 1.45 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | 3-methyl-1-butanol | CC(CCO)C | C5H12O
product | isopropyl 5-hydroxy-3-oxo-5-phenylpentanoate | yield: 85% | OC(CC(CC(=O)OC(C)C)=O)C1=CC=CC=C1 | C14H18O4
